US07615661B2
Structure V: 2-methyl-2-(methylthio)-propanoic acid ethyl ester
Ethyl 2-bromoisobutyrate (40.0 g, 0.205 mole), methanethiol (1.09 g, 0.0226 mole), potassium hydroxide (14.4 g, 0.226 mole,), ethyl alcohol (100 g), refluxed reaction mixture until peak for ethyl 2-bromoisobutyrate is no longer detectable by gas chromatography. Distill to purify.

reactant | Ethyl 2-bromoisobutyrate | 0.205 mole, 40.0 g | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | methanethiol | 0.0226 mole, 1.09 g | CS | CH4S
reactant | potassium hydroxide | 0.226 mole, 14.4 g | [OH-].[K+]
solvent | ethyl alcohol | 100 g | C(C)O | C2H6O
product | 2-methyl-2-(methylthio)-propanoic acid ethyl ester | C(C)OC(C(C)(SC)C)=O | C7H14O2S
